US04742069
After boiling 2.8 g of 3-nitrobenzylideneacetoacetic acid isopropyl ester and 2.34 g of 4-amino-N-isopropyl-1-methyl-2-oxo-3-pentenesulfonamide in a mixture of 10 ml of isopropanol and 5 ml of dimethylformamide for 8 hours there were obtained 1.4 g of 1,4-dihydro-2,6-dimethyl-5-[2-(isopropylsulfamoyl)propionyl]-4-(3-nitrophenyl)nicotinic acid isopropyl ester, m.p. 155°-158° (yellow crystalline powder from ether, only one of the two possible racemates).

reactant | 3-nitrobenzylideneacetoacetic acid isopropyl ester | 2.8 g | C(C)(C)OC(CC(=O)C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C14H15NO5
reactant | 4-amino-N-isopropyl-1-methyl-2-oxo-3-pentenesulfonamide | 2.34 g | NC(=CC(C(S(=O)(=O)NC(C)C)C)=O)C | C9H18N2O3S
reactant | ether | CCOCC | C4H10O
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,4-dihydro-2,6-dimethyl-5-[2-(isopropylsulfamoyl)propionyl]-4-(3-nitrophenyl)nicotinic acid isopropyl ester | 1.4 g | C(C)(C)OC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(C(C)S(NC(C)C)(=O)=O)=O)C)C)=O | C23H31N3O7S
